US05098462
Sodium bicarbonate (0.42 g, 5.0 mmol) is added to the above bromide (1.33 g, 4.55 mmol) in 13 ml of dry DMSO. The mixture is heated at 90° for 1.75 hours, then cooled, worked up and dried. The solvent is removed and the crude product is purified by prep. TLC to give ethyl 2-acetyl-6-chloronicotinate. Following the procedure of Example 11, the ethyl 2-acetyl-6-chloronicotinate is reacted with lithium hydroxide monohydrate to give 2-acetyl-6-chloronicotinic acid.

reactant | ethyl 2-acetyl-6-chloronicotinate | C(C)(=O)C1=C(C(=O)OCC)C=CC(=N1)Cl | C10H10ClNO3
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
product | 2-acetyl-6-chloronicotinic acid | C(C)(=O)C1=C(C(=O)O)C=CC(=N1)Cl | C8H6ClNO3
